* Test DC mode support for MAX, MIN and PP Measures
* This bug covers:
*
*   1) The case of one variable (vsrc1) on the .DC line, 
*      with one variable (vsrc2) in the .STEP statement.
*
*   2) The DC values of the swept variable (vsrc1) are monotonically
*      decreasing.
*
* See SON Bug 884 for more details.
****************************************************************

vsrc1   1a 0 1
rload1a 1a 1b 0.1
rload1b 1b 0 1

vsrc2   2a 0 1
rload2a 2a 1b 0.2

* Reverse the step order on vsrc1 (from the test in MEASURE_DC)
* to make sure that both increasing and decreasing sequences of
* values are tested.
.DC vsrc1 5 1 -1
.STEP VSRC2 2 5 3

* Note: vsrc1:DCV0 is the syntax for printing the DC value of vsrc1,
* at it is swept. 
.print dc vsrc1:DCV0 vsrc2:DCV0 v(1a) v(2a) v(1b)

* MAX measure
.measure dc maxv1b   max v(1b)
.measure dc maxFrom max v(1b) FROM=4
.measure dc maxTo max v(1b) TO=4

* these measures should get the same answer
.measure dc maxv1bFT max v(1b) FROM=2 TO=4
.measure dc maxv1bTF max v(1b) FROM=4 TO=2

* MIN measure
.measure dc minv1b   min v(1b)
.measure dc minFrom min v(1b) FROM=4
.measure dc minTo min v(1b) TO=4

* these measures should get the same answer
.measure dc minv1bFT min v(1b) FROM=2 TO=4
.measure dc minv1bTF min v(1b) FROM=4 TO=2

* PP measure
.measure dc ppv1b   pp v(1b)
.measure dc ppFrom pp v(1b) FROM=4
.measure dc ppTo pp v(1b) TO=4

* these measures should get the same answer
.measure dc ppv1bFT pp v(1b) FROM=2 TO=4
.measure dc ppv1bTF pp v(1b) FROM=4 TO=2

* Tests should fail since the FROM-T0 windows do not overlap
* with the stepped values for VSRC1:DCV0
.measure dc maxFail1 max v(1b) FROM=-4 TO=-2
.measure dc maxFail2 max v(1b) FROM=-2 TO=-4
.measure dc minFail1 min v(1b) FROM=6 TO=8
.measure dc minFail2 min v(1b) FROM=8 TO=6
.measure dc ppFail1 pp v(1b) FROM=-4 TO=-2
.measure dc ppFail2 pp v(1b) FROM=-4 TO=-2

* Signifies end of test. .sh file looks for a measure named lastMeasure.  
* This is needed for compatibility for testing with a verbose build, which 
* is often used by the Xyce developers.
.measure dc lastMeasure max v(1b) 


.end


